US06605599B1
To a two-necked flask was added chopped pieces of magnesium turnings (24 mg, 1.0 mmol). The flask was flame-dried under vacuum and cooled under argon. Bis(cyclopentadienyl)titanium dichloride (250 mg, 1.0 mmol) was added followed by anhydrous THF (5 mL). The stirring suspension was evacuated with low vacuum, and the reaction flask was refilled with argon. The red suspension became dark, turning a homogeneous deep green after 1.5 h with nearly all the magnesium metal being consumed. An aliquot (3.5 mL, 0.70 mmol, 3.5 eq) was removed and cooled to −78 ° C. under argon. To this solution was added epothilone A (99 mg, 0.20 mmol, 1.0 eq). The reaction mixture was warmed to room temperature and stirred for 15 min. The volatiles were removed in vacuo and the residue was chromatographed two times on silica (25 g), eluting with 35% EtOAc/hexanes to give 76 mg (80%) of epothilone C as a pale yellow viscous oil.

reactant | magnesium | 1.0 mmol, 24 mg | [Mg] | Mg
reactant | epothilone A | 0.20 mmol, 99 mg, 1.0 eq | CC1=NC(=CS1)/C=C(\C)/[C@@H]2C[C@H]3[C@H](O3)CCC[C@@H]([C@@H]([C@H](C(=O)C([C@H](CC(=O)O2)O)(C)C)C)O)C | C26H39NO6S
catalyst | Bis(cyclopentadienyl)titanium dichloride | 1.0 mmol, 250 mg | [Cl-].[Cl-].C1(C=CC=C1)[Ti+2]C1C=CC=C1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | epothilone C | 76 mg, 80% | CC1=NC(=CS1)/C=C(\C)/[C@@H]2C/C=C\CCC[C@@H]([C@@H]([C@H](C(=O)C([C@H](CC(=O)O2)O)(C)C)C)O)C | C26H39NO5S
